US08283353B2
4-{trans-4-[3-fluoro-2-(fluoromethyl)-2-hydroxypropoxy]cyclohexyl}-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (0.29 g), sodium hydrogen carbonate (0.47 g) and dimethyl sulfoxide (4 mL) was stirred at 40° C. for 30 min, 4′-[(4-{trans-4-[3-fluoro-2-(fluoromethyl)-2-hydroxypropoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (0.16 g) was added, and the mixture was stirred at 90° C. for 24 hr and then at room temperature for 34 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (2 mL). N,N′-Carbonyldiimidazole (0.055 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.051 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, adjusted to pH 4 with 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.10 g, 61%).

reactant | hydroxylammonium chloride | 0.29 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 0.47 g | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
reactant | 4′-[(4-{trans-4-[3-fluoro-2-(fluoromethyl)-2-hydroxypropoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.16 g | FCC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)(O)CF | C32H35F2N5O3
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{trans-4-[3-fluoro-2-(fluoromethyl)-2-hydroxypropoxy]cyclohexyl}-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.10 g, 61% | FCC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2)(O)CF | C33H36F2N6O5
